US08426408B2
(1S,2S,3R,4R)-3-{[2-({1-[1-(N-acetylglycyl)piperidin-4-yl]-1H-pyrazol-4-yl}amino)-5-chloropyrimidin-4-yl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxamide
(1S,2S,3R,4R)-3-(5-Chloro-2-(1-(piperidin-4-yl)-1H-pyrazol-4-ylamino)pyrimidin-4-ylamino)bicyclo[2.2.1]hept-5-ene-2-carboxamide (85 mg, 0.20 mmol), N-acetylglycine (26 mg, 0.22 mmol), 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (76 mg, 0.40 mmol) and 1-hydroxybenzotriazole hydrate (61 mg, 0.40 mmol) were taken up in N,N-dimethylformamide (1 mL), and N-methylmorpholine (0.11 mL, 1.0 mmol) was added. The reaction mixture was stirred at room temperature for 4 hours, then diluted with NaHCO3 solution (30 mL). The mixture was extracted with ethyl acetate (3×20 mL), and the extracts were dried (Na2SO4) and concentrated. The residue was purified by flash chromatography, using a 12 g silica cartridge and eluting with a gradient from 0 to 8% methanol/CH2Cl2 over 30 minutes at a flow rate of 30 mL/minutes, yielding the desired product. 1H NMR (400 MHz, DMSO-D6) ppm 1.42 (d, J=8.9 Hz, 1H) 1.73-1.86 (m, 2H) 1.88 (s, 3H) 2.01-2.08 (m, 2H) 2.13 (d, J=8.9 Hz, 1H) 2.55 (d, J=7.9 Hz, 1H) 2.76 (s, 1H) 2.87 (s, 1H) 2.93-3.14 (br m, 4H) 3.96 (d, J=5.2 Hz, 2H) 4.17 (t, J=7.9 Hz, 1H) 4.29-4.38 (m, 1H) 6.25 (dd, J=5.8, 3.1 Hz, 1H) 6.34 (dd, J=5.7, 2.9 Hz, 1H) 6.73-7.03 (br, 1H) 7.34-7.52 (br, 1H) 7.47 (d, J=7.6 Hz, 1H) 7.54 (s, 1H) 7.57-7.65 (br s, 1H) 7.75 (s, 1H) 7.84 (s, 1H) 8.69 (s, 1H); MS (ESI(+)) m/e 528 (M+H)+.

reactant | (1S,2S,3R,4R)-3-(5-Chloro-2-(1-(piperidin-4-yl)-1H-pyrazol-4-ylamino)pyrimidin-4-ylamino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | 0.20 mmol, 85 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C1CCNCC1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C20H25ClN8O
reactant | N-acetylglycine | 0.22 mmol, 26 mg | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 0.40 mmol, 76 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.40 mmol, 61 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 1.0 mmol, 0.11 mL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
product | (1S,2S,3R,4R)-3-{[2-({1-[1-(N-acetylglycyl)piperidin-4-yl]-1H-pyrazol-4-yl}amino)-5-chloropyrimidin-4-yl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxamide | C(C)(=O)NCC(=O)N1CCC(CC1)N1N=CC(=C1)NC1=NC=C(C(=N1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C24H30ClN9O3
